US07772221B2
Step E (1): Butyl chloroformate (408 mg, 3.0 mmol), followed by DIEA (1.23 mL, 9.0 mmol), was added to a 250-mL single neck round bottom flask charged with a solution of the (S)-methyl 2-aminopent-4-enoate hydrochloride (500 mg, 3.00 mmol) in DCM (50 mL) at 0° C. Warmed the mixture to rt and after 2 h, poured into 1N HCl (200 mL). Extracted with EtOAc. Washed the combined organic extracts with 0.1 N NaOH, brine, dried over MgSO4, filtered and concentrated in vacuo. Purification by silica-gel column chromatography afforded 357 mg (52% yield) of (S)-methyl 2-(butoxycarbonylamino)pent-4-enoate. LC-MS (M+H)+=230.2; 1H NMR (500 MHz, CDCl3) δ ppm 0.91 (t, J=7.48 Hz, 3H) 1.30-1.40 (m, 2H) 1.54-1.61 (m, 2H) 2.43-2.59 (m, 2H) 3.73 (s, 3H) 4.05 (t, J=6.71 Hz, 2H) 4.38-4.46 (m, 1H) 5.08-5.20 (m, 3H) 5.62-5.72 (m, 1H).

reactant | Butyl chloroformate | 3.0 mmol, 408 mg | ClC(=O)OCCCC | C5H9ClO2
reactant | DIEA | 9.0 mmol, 1.23 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-methyl 2-aminopent-4-enoate hydrochloride | 3.00 mmol, 500 mg | Cl.N[C@H](C(=O)OC)CC=C
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 2-(butoxycarbonylamino)pent-4-enoate | 357 mg, 52% yield | C(CCC)OC(=O)N[C@H](C(=O)OC)CC=C | C11H19NO4
